US08580794B2
ethyl 4-fluorobut-2-enoate
Ethyl 2-fluoroacetate (21.0 g) in CH2Cl2 (200 mL) at −78° C. was treated dropwise over 45 min with a 1.0 M solution of diisobutylaluminum hydride in CH2Cl2 (200 mL) maintaining the internal temperature below −70° C. Stirring was continued at −78° C. for 30 minutes and then (carbethoxymethylene)triphenylphosphorane (70.0 g) was added in one portion. The reaction mixture was allowed to slowly reach room temperature while stirring overnight. It was then quenched with methanol, filtered and concentrated to give the product as a mixture of isomers (E/Z=3:1).

reactant | Ethyl 2-fluoroacetate | 21.0 g | FCC(=O)OCC | C4H7FO2
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | (carbethoxymethylene)triphenylphosphorane | 70.0 g | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | ethyl 4-fluorobut-2-enoate | FCC=CC(=O)OCC | C6H9FO2
